datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1cccc(C)c1NC(=O)C[NH+:21](CC(C)C)[H:20].O=C([O-])c1ccc([N+](=O)[O-])cc1[O-:10]>>Cc1cccc(C)c1NC(=O)C[NH:21]CC(C)C.O=C([O-])c1ccc([N+](=O)[O-])cc1[O:10][H:20] 10=20;20,21=21",
"CCCCCC/[NH+]=C/c1c(C)c[n:10]c(C)c1O.O=C(Cc1ccc(-c2ccccc2)cc1)[O:21][H:20]>>CCCCCC/[NH+]=C/c1c(C)c[n+:10]([H:20])c(C)c1O.O=C(Cc1ccc(-c2ccccc2)cc1)[O-:21] 10=20;20,21=21",
"CC1(C)SC(=S)[N-:10]C1=O.CCCCCC[NH+:21](CCC(=O)[O-])[H:20]>>CC1(C)SC(=S)[N:10]([H:20])C1=O.CCCCCC[NH:21]CCC(=O)[O-] 10=20;20,21=21",
"C=CC[N+:21]1([H:20])CCCCC1.Nc1ccc([NH2:10])c(N)c1>>C=CC[N:21]1CCCCC1.Nc1ccc([NH2+:10][H:20])c(N)c1 10=20;20,21=21",
"CNc1nc[n:10]c2c1cnn2C.COC(=O)c1cc(O)c(O)c([O:21][H:20])c1C[NH+](C)C>>CNc1nc[n+:10]([H:20])c2c1cnn2C.COC(=O)c1cc(O)c(O)c([O-:21])c1C[NH+](C)C 10=20;20,21=21",
"COC(=O)C[C@@H]1[C@@H](C(=O)[O-])[NH:10]C[C@H]1C(C)O.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>COC(=O)C[C@@H]1[C@@H](C(=O)[O-])[NH+:10]([H:20])C[C@H]1C(C)O.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Nc1ccc(C[NH2:10])cc1.O=[N+]([O-])c1cccc(-c2ccc([O:21][H:20])cc2)c1>>Nc1ccc(C[NH2+:10][H:20])cc1.O=[N+]([O-])c1cccc(-c2ccc([O-:21])cc2)c1 10=20;20,21=21",
"CCc1cccn[n+:21]1[H:20].c1ccc(CN2CCC([NH2:10])CC2)cc1>>CCc1cccn[n:21]1.c1ccc(CN2CCC([NH2+:10][H:20])CC2)cc1 10=20;20,21=21",
"Brc1c[n:10]cc2ccccc12.c1ccc2c3c([nH]c2c1)C[NH+:21]([H:20])CC3>>Brc1c[n+:10]([H:20])cc2ccccc12.c1ccc2c3c([nH]c2c1)C[NH:21]CC3 10=20;20,21=21",
"O=S1(=O)N=C[N-:10]c2ncccc21.[NH3+]c1ccc(/C=N/NC(=O)c2cc[n+:21]([H:20])cc2)cc1>>O=S1(=O)N=C[N:10]([H:20])c2ncccc21.[NH3+]c1ccc(/C=N/NC(=O)c2cc[n:21]cc2)cc1 10=20;20,21=21",
"COc1ccc(-c2ncc(-c3ccc([NH2:10])cc3)o2)cc1.[NH3+]C(Cn1cccn1)C(=O)[O:21][H:20]>>COc1ccc(-c2ncc(-c3ccc([NH2+:10][H:20])cc3)o2)cc1.[NH3+]C(Cn1cccn1)C(=O)[O-:21] 10=20;20,21=21",
"C[NH:10]CCCN1c2ccccc2CCc2ccccc21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+:10](CCCN1c2ccccc2CCc2ccccc21)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCCn1cc[n+:21]([H:20])c1.COC(=O)c1nccc[n:10]1>>CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCCn1cc[n:21]c1.COC(=O)c1nccc[n+:10]1[H:20] 10=20;20,21=21",
"Cc1[nH][n+:21]([H:20])c(C)c1C.NC(=O)c1cc(-c2ccccc2)nnc1[N-:10]CCN1CCOCC1>>Cc1[nH][n:21]c(C)c1C.NC(=O)c1cc(-c2ccccc2)nnc1[N:10](CCN1CCOCC1)[H:20] 10=20;20,21=21",
"C[C:21](C1=CC=C([N+](=O)[O-])C=C1)([N+](=O)[O-])[H:20].ClC(Cl)C[O-:10]>>C[C-:21](C1=CC=C([N+](=O)[O-])C=C1)[N+](=O)[O-].ClC(Cl)C[O:10][H:20] 10=20;20,21=21",
"CCC[NH:10]C(C)C(=O)[O-].O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCC[NH+:10](C(C)C(=O)[O-])[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC1=[N:10]CCc2c1[nH]c1ccccc21.Cc1ccc(C(=O)C(=O)[O:21][H:20])cc1>>CC1=[N+:10]([H:20])CCc2c1[nH]c1ccccc21.Cc1ccc(C(=O)C(=O)[O-:21])cc1 10=20;20,21=21",
"CCCc1nnn[n:21]1[H:20].NC(=S)C[NH2:10]>>CCCc1nnn[n-:21]1.NC(=S)C[NH2+:10][H:20] 10=20;20,21=21",
"CN1C(=O)C=C(C(=O)[O:21][H:20])N(C)C1=O.O=C[O-:10]>>CN1C(=O)C=C(C(=O)[O-:21])N(C)C1=O.O=C[O:10][H:20] 10=20;20,21=21",
"Cc1cc([O-:10])n(-c2ccccc2)n1.c1ccc2c(c1)C[NH2+]CCC[NH+:21]([H:20])Cc1ccccc1OCCCO2>>Cc1cc([O:10][H:20])n(-c2ccccc2)n1.c1ccc2c(c1)C[NH2+]CCC[NH:21]Cc1ccccc1OCCCO2 10=20;20,21=21",
"C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2+:21][H:20])[C@@H](C)[C@H]1N.[NH3+]CCCNCCC[NH2:10]>>C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2:21])[C@@H](C)[C@H]1N.[NH3+]CCCNCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)c1ccc(C(=O)[O-:10])cc1.Nc1ccc2c(Cl)c3ccccc3[n+:21]([H:20])c2c1>>CC(C)c1ccc(C(=O)[O:10][H:20])cc1.Nc1ccc2c(Cl)c3ccccc3[n:21]c2c1 10=20;20,21=21",
"CC(C)CC([NH3+])C(=O)[O-:10].C[NH+:21](Cl)[H:20]>>CC(C)CC([NH3+])C(=O)[O:10][H:20].C[NH:21]Cl 10=20;20,21=21",
"COc1nc2ncncc2[n-:10]1.Cc1ccc([NH2+:21][H:20])c(N)c1>>COc1nc2ncncc2[n:10]1[H:20].Cc1ccc([NH2:21])c(N)c1 10=20;20,21=21",
"CCOCC[NH:10]c1ccc(C)cc1.[OH2+]C[O:21][H:20]>>CCOCC[NH+:10](c1ccc(C)cc1)[H:20].[OH2+]C[O-:21] 10=20;20,21=21",
"NC(=O)CS(=O)(=O)[N:21](C(N)=O)[H:20].[NH3+]CCCC[NH2+]CCC[NH2:10]>>NC(=O)CS(=O)(=O)[N-:21]C(N)=O.[NH3+]CCCC[NH2+]CCC[NH2+:10][H:20] 10=20;20,21=21",
"O=C1C=CC=C([O-])C=C1[O-:10].O=S(Cc1ccccc1)c1cnn[n:21]1[H:20]>>O=C1C=CC=C([O-])C=C1[O:10][H:20].O=S(Cc1ccccc1)c1cnn[n-:21]1 10=20;20,21=21",
"[NH3+]C(Cc1c[nH]c[n+:21]1[H:20])C(=O)[O-].c1nncn1[NH-:10]>>[NH3+]C(Cc1c[nH]c[n:21]1)C(=O)[O-].c1nncn1[NH:10][H:20] 10=20;20,21=21",
"CC(=O)N(N)C1CC[N:10](C)CC1.C[n+]1ccc2cccc([O:21][H:20])c2c1>>CC(=O)N(N)C1CC[N+:10](C)([H:20])CC1.C[n+]1ccc2cccc([O-:21])c2c1 10=20;20,21=21",
"CCSC(C)[O-:10].Nc1nc[n+:21]([H:20])c2c1ncn2[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O>>CCSC(C)[O:10][H:20].Nc1nc[n:21]c2c1ncn2[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O 10=20;20,21=21",
"CS/C(c1ccccc1)=[N:10]\C.Cc1c2ccncc2cc2c1[nH]c1cc[n+:21]([H:20])cc12>>CS/C(c1ccccc1)=[N+:10](\C)[H:20].Cc1c2ccncc2cc2c1[nH]c1cc[n:21]cc12 10=20;20,21=21",
"Cc1ccc2ccc3ccc(C)[n+:21]([H:20])c3c2n1.OCCCCCC[NH2:10]>>Cc1ccc2ccc3ccc(C)[n:21]c3c2n1.OCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CCOc1cccc(C(=O)[O:21][H:20])c1C.Oc1ccccc1C[N:10]1CCCC1>>CCOc1cccc(C(=O)[O-:21])c1C.Oc1ccccc1C[N+:10]1([H:20])CCCC1 10=20;20,21=21",
